US07989637B2
5-Amino-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide (596 mg, 2 mmol) was dissolved in 6 mL of concentrated HCl and stirred for 15 minutes at 0° C. To the reaction mixture was added a solution of NaNO2 (138 mg, 2 mmol) in water (1.5 mL) dropwise at 0° C. The mixture was stirred for 30 minutes, and then a solution of SnCl2 (4.5 mmol, 189.6 mg) in 2 mL of concentrated HCl was added dropwise. A precipitate began to form immediately. After stirring for another 30 minutes, the resulting 5-hydrazino-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide was isolated as a hydrochloride salt by filtration and immediately used in the next step.

reactant | 5-Amino-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide | 2 mmol, 596 mg | COCC(C)NC(=O)C=1C=C(C=C(C1)N)C1=CC=C(C=C1)C | C18H22N2O2
reactant | NaNO2 | 2 mmol, 138 mg | N(=O)[O-].[Na+]
reactant | SnCl2 | 4.5 mmol, 189.6 mg | Cl[Sn]Cl
solvent | HCl | 6 mL | Cl | ClH
solvent | water | 1.5 mL | O | H2O
solvent | HCl | 2 mL | Cl | ClH
product | 5-hydrazino-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide | COCC(C)NC(=O)C=1C=C(C=C(C1)NN)C1=CC=C(C=C1)C | C18H23N3O2
